US07947715B2
3,4-Dichloro-5-methyl-1-[1-(trifluoromethyl)ethenyl]benzene
To 1M solution of 1-(trifluoromethyl)ethenyl zinc bromide in tetrahydrofuran (see J. Org. Chem. 1991, 56, 7336 for preparation) (19 mL) was added a solution of 5-bromo-2,3-dichlorotoluene (2.2 g) in N,N-dimethylformamide (10 mL), then tetrahydrofuran was distilled off under reduced pressure. Dichlorobis(triphenylphosphine)palladium(II) (0.26 g) was added to the residual N,N-dimethylformamide solution, which was stirred at 100° C. for 3.5 hours under nitrogen atmosphere and then cooled to room temperature. To the resulting mixture was added tetrahydrofuran-hexane 2:5 mixture (200 mL) and filtered, and the filtrate was washed with water (100 mL) and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide a residue. The residue was purified by column chromatography on silica gel eluted with hexane to afford the title compound as a brown oil (2.3 g).

reactant | 1-(trifluoromethyl)ethenyl zinc bromide | [Br-].FC(C(=C)[Zn+])(F)F
reactant | 5-bromo-2,3-dichlorotoluene | 2.2 g | BrC=1C=C(C(=C(C1)C)Cl)Cl | C7H5BrCl2
solvent | tetrahydrofuran | 19 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3,4-Dichloro-5-methyl-1-[1-(trifluoromethyl)ethenyl]benzene | 2.3 g | ClC=1C=C(C=C(C1Cl)C)C(=C)C(F)(F)F | C10H7Cl2F3
